US06310056B1
(1S,5R,6S)-2-(5-formyl-6-methylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (inner salt)
To a suspension of 33 mg of 4-nitrobenzyl (1S,5R,6S)-2-(5-formylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 1 ml of dichloromethane was added 0.017 ml of methyl trifluoromethanesulfonate under ice-cooling. The mixture was stirred for 5 hours, and concentrated under reduced pressure. The residual concentrate was dissolved in 2 ml of THF and 2 ml of 1/15 M sodium phosphate buffer (pH 6.6), and 47 mg of 10% Pd-C was added therto. The reactor was purged with hydrogen, and the reaction mixture was stirred at room temperature for 2 hours. The catalyst was collected by filtration on Celite, and washed with water. The filtrate was washed with ethyl acetate, and the aqueous layer was purified by column chromatography on DIAION HP-20 (20% methanol in water) and on COSMOSEAL 40C18-PREP (water:methanol=10:1) to give 2.5 mg of the title compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-2-(5-formylimidazo[5,1-b]thiazol-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 33 mg | C(=O)C1=NC=C2SC(=CN21)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C23H20N4O7S
reactant | methyl trifluoromethanesulfonate | 0.017 ml | FC(S(=O)(=O)OC)(F)F | C2H3F3O3S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (1S,5R,6S)-2-(5-formyl-6-methylimidazo[5,1-b]thiazolium-2-yl)-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 2.5 mg | C(=O)C=1N(C=C2SC(=C[N+]21)C=2[C@@H]([C@H]1N(C2C(=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)C | C17H17N3O5S
